US04161538
Ethyl 2-[4-(1-Ethoxycarbonyl-2-oxocyclopentan-1-ylmethyl)phenyl]acetate
A mixture of 9.4 g of ethyl 2-cyclopentanonecarboxylate, 10.6 g of ethyl p-chloromethylphenylacetate, 3.58 g of potassium hydroxide and 60 ml of dimethyl formamide was stirred at room temperature for 5 hours, at 50° C. for 1 hour and thereafter at room temperature overnight. The reaction mixture was acidified by addition of acetic acid, dimethyl formamide was removed by distillation, water was added to the residue, and the mixture was extracted with ether. The extract was washed with water, dried over anhydrous sodium sulfate, and the solvent evaporated to give an oily substance, which was subjected to a vacuum distillation affording 12 g of the desired compound, b.p. 180°-190° C. at 0.8 mm Hg.

reactant | ethyl 2-cyclopentanonecarboxylate | 9.4 g | CCOC(=O)C1CCCC1=O | C8H12O3
reactant | ethyl p-chloromethylphenylacetate | 10.6 g | ClCC1=CC=C(C=C1)CC(=O)OCC | C11H13ClO2
reactant | potassium hydroxide | 3.58 g | [OH-].[K+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl formamide | 60 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[4-(1-Ethoxycarbonyl-2-oxocyclopentan-1-ylmethyl)phenyl]acetate | 12 g | C(C)OC(=O)C1(C(CCC1)=O)CC1=CC=C(C=C1)CC(=O)OCC | C19H24O5
